US04230707
From 6.0 g (0.038 mol) of 6-chloro-3-pyridinecarboxamide (Aldrich Chemical Company) and 8.0 g (0.040 mol) of 2-amino-4,5-dimethyl-3-thiophenecarboxylic acid, ethyl ester (Chemische Berichte, Vol. 99, pages 94-100, 1966), following the procedure of Example 22, there is obtained 2,3-dimethyl-4-oxo-4H-pyrido[1,2-a]thieno[2,3-d]pyrimidine-7-carboxamide; mp 361°-363° C. after recrystallization from pyridine.

reactant | 6-chloro-3-pyridinecarboxamide | 0.038 mol, 6.0 g | ClC1=CC=C(C=N1)C(=O)N | C6H5ClN2O
reactant | 2-amino-4,5-dimethyl-3-thiophenecarboxylic acid, ethyl ester | 0.040 mol, 8.0 g | NC=1SC(=C(C1C(=O)OCC)C)C | C9H13NO2S
product | 2,3-dimethyl-4-oxo-4H-pyrido[1,2-a]thieno[2,3-d]pyrimidine-7-carboxamide | CC1=C(C2=C(N=C3N(C2=O)C=C(C=C3)C(=O)N)S1)C | C13H11N3O2S
